US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-piperidinone
Dimethylsulphoxide (1.2 ml, 16.6 mmol) was added to a solution of oxalyl chloride (1.5 ml, 16.6 mmol) in dichloromethane (200 ml) at −78° C. and stirred for 15 minutes. 1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine (3.5 g, 11.0 mmol) in dichloromethane (50 ml) was added and the reaction stirred at −20° C. for 15 minutes. Triethylamine (4.6 ml, 33 mmol) was added and the reaction stirred for 90 minutes, warming slowly to room temperature. The mixture was diluted with dichloromethane and washed with water. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 5% methanol/dichloromethane to give the title compound (2.8 g, 80%).

reactant | Dimethylsulphoxide | 16.6 mmol, 1.2 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 16.6 mmol, 1.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine | 11.0 mmol, 3.5 g | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)O)(C)C | C17H27NO3S
reactant | Triethylamine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-piperidinone | 2.8 g, 80% | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)=O)(C)C | C17H25NO3S
